US09102684B2
5-Bromo-2-isopropyl-3-phenyl-2,3-dihydro-isoindol-1-one
2-Benzoyl-4-bromo-benzoic acid ethyl ester (50 mg; 0.15 mmol) is dissolved in ethylene dichloride (1 ml) and treated with 1 mol/l Titanium(IV)chloride solution (150 μl; 0.15 mmol) and cooled down to 0° C. Isopropylamine (13 μl; 0.15 mmol) is added and stirred for 2 hours at ambient temperature and 16 hours at 80° C. A 6.5 mol/l solution of sodium cyano borohydride in methanol (140 μl; 0.90 mmol) is added and stirred for 3 days followed by another portion of sodium cyano borohydride in methanol and 16 hours at 50° C.

reactant | 2-Benzoyl-4-bromo-benzoic acid ethyl ester | 0.15 mmol, 50 mg | C(C)OC(C1=C(C=C(C=C1)Br)C(C1=CC=CC=C1)=O)=O | C16H13BrO3
reactant | Isopropylamine | 0.15 mmol, 13 μl | C(C)(C)N | C3H9N
reactant | sodium cyano borohydride | C(#N)[BH3-].[Na+]
solvent | ethylene dichloride | 1 ml | C(CCl)Cl | C2H4Cl2
solvent | methanol | CO | CH4O
catalyst | Titanium(IV)chloride | 0.15 mmol, 1 mol/l, 150 μl | [Ti](Cl)(Cl)(Cl)Cl
solvent | methanol | 0.90 mmol, 140 μl | CO | CH4O
product | 5-Bromo-2-isopropyl-3-phenyl-2,3-dihydro-isoindol-1-one | BrC=1C=C2C(N(C(C2=CC1)=O)C(C)C)C1=CC=CC=C1 | C17H16BrNO
